US04867915
21.76 ml (9.8 g, 0.735 mmol) of a 3.38N solution of ethylmagnesium bromide in ether was added dropwise, under argon to a cold (0°-5° C.) solution of 11.66 g (0.7 mol) of 3-(m-chlorophenoxy)-1-propyne [I. Iway, et al., Chem. Pharm. Bull., 11, 1042 (1963)] in 80 ml of anhydrous tetrahydrofuran. The rate was monitoredto maintain a temperature of 0° C. Thereafter, the reaction mixture was stirred for 1 hour further at 0°-5° C. Then, 31.35 mg ofcuprous cyanide were added and the mixtured stirred 20 minutes more. Then asolution of 5.5 g (0.035 mol) of 1-bromo-2,5-hexadiyne in 20 ml of anhydrous tetrahydrofuran was added dropwise to the mixture as the temperature was maintained at between 0°-5° C. Then the reaction was stirred at room temperature for 3 additional hours and quenched with 200 ml of 1N sulfuric acid and ice. After extraction with ether (3×200 ml), the combined organic extracts were concentrated invacuo to a small volume, and washed several times with EDTA and water, dried over sodium sulfate and evaporated in vacuo. The residue was purified by column chromatography on 350 g of silica gel, using hexane as eluant, and the product crystallized from methylene chloride-hexane, to yield 9-(m-chlorophenoxy)-1,4,7-nonatriyne, as an oil. The product was stored in dry ice.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 3-(m-chlorophenoxy)-1-propyne | 0.7 mol, 11.66 g | ClC=1C=C(OCC#C)C=CC1 | C9H7ClO
reactant | cyanide | 31.35 mg | [C-]#N
reactant | 1-bromo-2,5-hexadiyne | 0.035 mol, 5.5 g | BrCC#CCC#C | C6H5Br
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 9-(m-chlorophenoxy)-1,4,7-nonatriyne | ClC=1C=C(OCC#CCC#CCC#C)C=CC1 | C15H11ClO
